US07858796B2
3-{1-[(2-chloroethyl)sulfonyl]-4-piperidinyl}-5-(3-thienyl)-1H-indole-7-carboxamide was prepared according to the procedure for intermediate 11. 3-(4-piperidinyl)-5-(3-thienyl)-1H-indole-7-carboxamide (30 mg, 0.09 mmol) was reacted with triethyl amine (0.025 mL, 0.18 mmol) and 2-chloroethylsulfonyl chloride (0.012 mL, 1.08 mmol) to give 3-{1-[(2-chloroethyl)sulfonyl]-4-piperidinyl}-5-(3-thienyl)-1H-indole-7-carboxamide, which was used in the next step without further purification.

reactant | 3-(4-piperidinyl)-5-(3-thienyl)-1H-indole-7-carboxamide | 0.09 mmol, 30 mg | N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CSC=C1)C(=O)N | C18H19N3OS
reactant | triethyl amine | 0.18 mmol, 0.025 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloroethylsulfonyl chloride | 1.08 mmol, 0.012 mL | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
product | 3-{1-[(2-chloroethyl)sulfonyl]-4-piperidinyl}-5-(3-thienyl)-1H-indole-7-carboxamide | ClCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CSC=C1)C(=O)N | C20H22ClN3O3S2
